US07871998B2
N-({4-[(2R,3R)-1-(4-Fluorophenyl)-3-({2-hydroxy-2-[4-(methylthio)phenyl]ethyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-3-cyclohexyl-D-alanine
To a solution of {4-[(2R,3R)-1-(4-fluorophenyl)-3-({2-hydroxy-2-[4-(methylthio)phenyl]ethyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetic acid (0.020 g, 0.039 mmol) and NMM (0.025 ml, 0.227 mmol) in DMF (3 ml) at RT was added TBTU (0.025 g, 0.078 mmol). The reaction mixture was stirred for 90 min after which glycyl-3-cyclohexyl-D-alanine (0.010 g, 0.044 mmol) was added. The mixture was stirred for 22 h before the reaction was quenched by the addition of water (1 ml). The mixture was diluted with MeOH (1 ml) and then NaBH4 (0.016 g, 0.423 mmol) was added. After 10 min the reaction was quenched by the addition of a 0.1M ammonium acetate buffer (2 ml) and most of the methanol was removed under reduced pressure. The remaining solution was purified by preparative HPLC using a gradient of 20-60% MeCN in a 0.1M ammonium acetate buffer as eluent. Freeze-drying of the pure fractions gave the desired product as a white solid (0.009 g, 32% yield).

reactant | {4-[(2R,3R)-1-(4-fluorophenyl)-3-({2-hydroxy-2-[4-(methylthio)phenyl]ethyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetic acid | 0.039 mmol, 0.020 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(C1=CC=C(C=C1)SC)O)C1=CC=C(OCC(=O)O)C=C1 | C26H24FNO5S2
reactant | NMM | 0.227 mmol, 0.025 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.078 mmol, 0.025 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | glycyl-3-cyclohexyl-D-alanine | 0.044 mmol, 0.010 g | NCC(=O)N[C@H](CC1CCCCC1)C(=O)O | C11H20N2O3
reactant | NaBH4 | 0.423 mmol, 0.016 g | [BH4-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-({4-[(2R,3R)-1-(4-Fluorophenyl)-3-({2-hydroxy-2-[4-(methylthio)phenyl]ethyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-3-cyclohexyl-D-alanine | 0.009 g, 32% yield | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(C1=CC=C(C=C1)SC)O)C1=CC=C(OCC(=O)NCC(=O)N[C@H](CC2CCCCC2)C(=O)O)C=C1 | C37H42FN3O7S2
